US07989463B2
Step (i): Synthesis of 4-chloro-2-(4-methanesulfonyl-phenyl)-6,7-dihydro-5H-cyclopentapyrimidine
A solution of trimethylaluminum in toluene (2M, 26 mL, 52 mmol) was added slowly under nitrogen to a suspension of ammonium chloride (3.0 g, 55 mmol) in anhydrous toluene at 0° C.-5° C. The mixture was then stirred at a temperature in the range of 15° C. to 40° C. for 20 min before addition of a solution of 4-methanesulfonyl-benzonitrile (5.4 g, 30 mmol) in toluene. The resulting mixture was then heated at 80° C. under stirring for 10 hours. Thereafter, the mixture was cooled to a temperature in the range of 15° C. to 40° C. MeOH was added slowly to quench the reaction and stirred at a temperature in the range of 15° C. to 40° C. for 1 hour. Thereafter, the precipitate was filtered and washed with MeOH (3×30 mL). The filtrate and the washings were combined and concentrated under reduced pressure. The resultant semi-solid was dried under vacuum. The material was dissolved in anhydrous ethanol (20 mL) before addition of methyl-2-oxo-cyclopentanecarboxylate (1.3 mL, 10 mmol) and K2CO3 (2.06 g, 15 mmol) and then the mixture was heated to reflux for a period over 6-15 hours. Thereafter, volatiles were evaporated under reduced pressure, cooled to a temperature in the range of 15° C. to 40° C. and diluted with water. The resulting precipitate was filtered and washed thoroughly with water followed by ether and dried in vacuum. The solid was mixed with phosphorus oxychloride (4 mL) and heated to reflux for 3 hours. Thereafter, volatiles were evaporated under reduced pressure and the mixture was poured over ice-water. The product was extracted with dichloromethane (3×60 mL). The combined organic extracts were washed with brine, dried over anhydrous Na2SO4, filtered, and the filtrate was evaporated under reduced pressure to afford the title compound as a light yellow solid (0.71 g, 79% yield).

reactant | trimethylaluminum | C[Al](C)C
reactant | ammonium chloride | 55 mmol, 3.0 g | [Cl-].[NH4+]
reactant | 4-methanesulfonyl-benzonitrile | 30 mmol, 5.4 g | CS(=O)(=O)C1=CC=C(C#N)C=C1 | C8H7NO2S
reactant | methyl-2-oxo-cyclopentanecarboxylate | 10 mmol, 1.3 mL | COC(=O)C1C(CCC1)=O | C7H10O3
reactant | K2CO3 | 15 mmol, 2.06 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | toluene | 52 mmol, 2M, 26 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
product | 4-chloro-2-(4-methanesulfonyl-phenyl)-6,7-dihydro-5H-cyclopentapyrimidine | 0.71 g, 79% yield | ClC1=NC(=NC2=C1CCC2)C2=CC=C(C=C2)S(=O)(=O)C | C14H13ClN2O2S
